US09238639B2
A) Ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate
To a solution of ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate (500 mg) and triethylamine (0.592 mL) in CH3CN (20 mL) was added Tf2O (0.417 mL). The mixture was stirred at 0° C. for 10 min. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with 1N HCl and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (745 mg).

reactant | ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate | 500 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)O)=O | C12H12O3S
reactant | triethylamine | 0.592 mL | C(C)N(CC)CC | C6H15N
reactant | Tf2O | 0.417 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | Ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate | 745 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O | C13H11F3O5S2
